US08669229B2
7-Chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-5-methylthiomethoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine (509 mg, 1.0 mmol) was dissolved in 1,2-dichloroethane (10 ml). Sulfuric chloride (0.12 ml, 1.5 mmol) was added thereto, and the mixture was stirred at room temperature for 15 minutes. The obtained mixture was concentrated under reduced pressure, and acetonitrile (10 ml), sodium acetate (246 mg, 2.0 mmol), and sodium iodide (450 mg, 3.0 mmol) were added to the residue, and then the mixture was heated under reflux for 1 hour. After cooling to room temperature, ethyl acetate was added thereto, and the insoluble subject was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel flash chromatography (n-hexane:ethyl acetate=65:35→50:50). The purified product was concentrated under reduced pressure, and the residue was dissolved in aqueous acetonitrile. After concentration at room temperature under reduced pressure, the resulted precipitates were collected by filtration, and dried to obtain 280 mg of 5-acetoxymethoxy-7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepine as white powder.

reactant | 7-Chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-5-methylthiomethoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.0 mmol, 509 mg | ClC1=CC2=C(N(CCCC2OCSC)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | C28H29ClN2O3S
reactant | Sulfuric chloride | 1.5 mmol, 0.12 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium acetate | 2.0 mmol, 246 mg | C(C)(=O)[O-].[Na+]
reactant | sodium iodide | 3.0 mmol, 450 mg | [I-].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-acetoxymethoxy-7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 280 mg | C(C)(=O)OCOC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C29H29ClN2O5
